US09387209B2
Step 1: Preparation of 7-chloro-2-methyl-3-phenethylquinazolin-4(3H)-one
4-chloroanthranilic acid (6 g, 34.27 mmol) suspended in acetic anhydride (25 mL, 264.47 mmol) was refluxed for 3 h. The resulting solution was cooled to rt to give crystal formed. The solution was filtered and washed with excess of hexane to get light yellow needle crystal. The crystal was mixed with phenethylamine (4.6 mL, 36.15 mmol) in acetic acid (25 mL) and refluxed for 18.5 h. After 18.5 h, the reaction mixture was diluted with dichloromethane (50 mL) and washed with water (3×50 mL) and saturated aqueous NaHCO3 solution (7×40 mL). The organic layer dried over MgSO4 was concentrated to around 20 mL and added with excess of MeOH to get crystal formed. The solution was filtered to give title compound as white crystal (5.2 g, 50.8%). Rf=0.3 (ethyl acetate/hexane=1:2); mp 133-135° C. (recrystallized from methanol); 1H NMR (400 MHz, DMSO-d6) δ 2.46 (s, 3H, CH3), 2.96 (t, J=8 Hz, 2H, CH2), 4.20 (t, J=8 Hz, 2H, CH2), 7.23-7.25 (m, 3H, ArH), 7.28-7.32 (m, 2H, ArH), 7.49 (dd, 1H, J=8.4, 2 Hz, ArH), 7.60 (d, J=2 Hz, 1H, ArH), 8.09 (d, J=8.4 Hz, 1H, ArH), 13C NMR (50 MHz, DMSO-d6) δ 23.2, 33.9, 46.2, 119.2, 126.1, 127.0, 127.1, 128.7, 129.1, 129.3, 138.7, 139.4, 148.6, 157.1, 160.9; ESIMS(+) m/z 299.0 [M+1]+. Anal. (C17H15ClN2O) C, H, N. Calcd, 68.34, 5.06, 9.38. Found: 68.56, 5.07, 9.57.

reactant | 4-chloroanthranilic acid | 34.27 mmol, 6 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | acetic anhydride | 264.47 mmol, 25 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | phenethylamine | 36.15 mmol, 4.6 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 7-chloro-2-methyl-3-phenethylquinazolin-4(3H)-one | 5.2 g, 50.8% | ClC1=CC=C2C(N(C(=NC2=C1)C)CCC1=CC=CC=C1)=O | C17H15ClN2O
